US05208230
Scheme C, step c: [S-(R*, R*)]-N-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-3,4-dihydro-2H-1,4-oxazine-3-carboxylic acid, methyl ester
Dissolve N-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-O-2-oxoethyl-L-serine, methyl ester (13.6 g) in methylene chloride/trifluoroacetic acid (10:1/330 mL). Stir at room temperature for 2.5 hours and evaporate the solvent in vacuo. Purify by silica gel chromatography (35% ethyl acetate/hexane) and recrystallize (ethyl acetate/hexane) to give the title compound (8.52 g, 68%); mp 70°-72° C.

reactant | N-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-O-2-oxoethyl-L-serine, methyl ester | 13.6 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)N[C@@H](COCC=O)C(=O)OC)CC1=CC=CC=C1 | C23H22N2O7
solvent | methylene chloride trifluoroacetic acid | 330 mL | C(Cl)Cl.FC(C(=O)O)(F)F
product | N-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-3,4-dihydro-2H-1,4-oxazine-3-carboxylic acid, methyl ester | 8.52 g, 68% | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)N1C(COC=C1)C(=O)OC)CC1=CC=CC=C1 | C23H20N2O6
